US04203988
B. 3-(2-Dimethylaminoethylamino)pyridine
The title compound is prepared by following the procedure of Example 15, Part B, except substituting N-(2-dimethylaminoethyl)-N-(3-pyridyl)acetamide from Part A above for N-(2-dimethylaminoethyl)-N-(5-chloro-2-pyridyl)acetamide. The product has b.p. 87°-90°/0.4 mm.

reactant | N-(2-dimethylaminoethyl)-N-(3-pyridyl)acetamide | CN(CCN(C(C)=O)C=1C=NC=CC1)C | C11H17N3O
reactant | N-(2-dimethylaminoethyl)-N-(5-chloro-2-pyridyl)acetamide | CN(CCN(C(C)=O)C1=NC=C(C=C1)Cl)C | C11H16ClN3O
product | 3-(2-Dimethylaminoethylamino)pyridine | CN(CCNC=1C=NC=CC1)C | C9H15N3
